Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
ACE Inhibitors / amlodipine / atorvastatin / nifedipine / 
hydralazine
 
Attending: ___.
 
Chief Complaint:
weakness and shortness ofbreath
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old female, history of you are not responding, 
anemia, atrial fibrillation on Coumadin, who presents with 
abnormal labs, weakness, and was sent in by her outpatient ___ 
providers for worsening symptoms. She reports several days of 
worsening shortness of breath and weakness. She denies chest 
pain. No cough or sputum production. She is scheduled for 
rituximab infusion
tomorrow at ___, but with provider today, who referred to 
emergency department for stabilization and possible inpatient 
rituximab. In the ED, she denied fevers, chills, change in 
vision or hearing, rashes, abdominal pain, joint pain, or fevers 
or  change in bowel or bladder function.
 
In the ED, initial VS were 98.0 96 135/101 16 95% on RA.
Labs notable for BUN/Cr of 39/1.6. H/H of 8.6/26.3. INR of 4.0. 
Upon arrival to the floor, the patient tells the story as 
follows.

Review of outpatient records shows the following. The patient 
was recently admitted to CHA for epistaxis  from ___. 
She was given afrin and TXA without hemostatic effect. A rhino 
rocket was placed and subsequently removed by ENT. Immediately 
after Rhino Rocket was placed, she entered atrial fibrillation 
with RVR.In the emergency department, management of her atrial 
fibrillation with RVR included metoprolol 5 mg IV, when her 
heart rates were in the 140s to 150s range. This had minimal 
effect.
Given metoprolol 25 mg x1 as well as metoprolol 2.5 mg IV, which 
reduced heart rates to the 110s 120s range. Again asymptomatic. 
She had an episode of emesis with blood clots. She was then 
treatment with Augmentin for a planned 12 day course (7 
additional days after rhino rocket removal). He rhospital course 
was notable for atrial fibrillation with RVR, which was
asymptomatic. 
.
She drove to ___ for a ___uring which she 
stopped at ___ 3 weeks. Immediately upon her return 
she felt great but then began noticing the worsening shortness 
of breath with exertion. She has not had leg swelling. When she 
first lays down she feels like she is suffocating and then she 
gets used to it. When she is sleeping in the middle of the night 
she wakes up sob which is also new over the past 2.5 weeks. She 
has not lost weight. No fevers or chills. No chest pain. She has 
not been coughing. Her DOE causes her to feel unsteady but 
otherwise she has not felt weak or had focal weakness.  She has 
not taken her Toprol for 3 days because she felt so poorly.  
. 
Shortly upon arrival to the floor the patient triggered for HR = 
150s without symptoms.  
ROS: Pertinent positives and negatives as noted in the HPI.  All 
other systems were reviewed and are negative. 

 
Past Medical History:
- Diastolic dysfunction
- CKD
- Pulmonary nodule
- Autoimmune hemolytic anemia
- HLD
- Thyroid nodule
- Osteopenia
- Glaucoma
- Multinodular goiter
- Paroxysmal atrial fibrillation
- HTN
- GERD
- Lumbar spinal stenosis
- Benign positional vertigo
- Ascending aortic dilatation
- Supraventricular tachycardia
- Trigger finger
 
Social History:
___
Family History:
___ Alive Hypertension; Thyroid Disorder 
Father  Cancer - ___ Hypertension; Thyroid Disorder 
 
Physical Exam:
VITALS: T = 98.3, 121 / 87 L Lying ___ Ra 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
Mucous membranes moist 
CV: Heart, tachy and irregularly irregular, no murmurs/rubs or
gallops.
JVP 6 cm above the mandible at 45 degrees. + HJR.
RESP: Lungs clear to auscultation with good air movement
bilaterally
GI: Abdomen soft, non-distended, non-tender to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
2+ pitting edema to just below her knees b/l
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
5  110  39  102   AGap=11 
-------------\
5.3  24  1.6  

Comments: Glucose: If Fasting, 70-100 Normal, >125 Provisional
Diabetes 

==================================

ALT: 76 AP: 90 Tbili: 1.5 Alb: 3.4 
AST: 44 LDH:  Dbili: 0.3 TProt:  
___:  Lip:      
Other Blood Chemistry:
proBNP: Pnd

==========================================
 102 
8.5\ 8.6 / 206 
    /26.3\
 N:68.2 L:21.4 M:8.8 E:0.8 Bas:0.2 Nrbc: 0.4 ___: 0.6
Absneut: 5.78 Abslymp: 1.82 Absmono: 0.75 Abseos: 0.07 Absbaso:
0.02  
===================================
___: 43.6  PTT: 33.3  INR: 4.0  

ADMISSION CXR:
Moderate cardiac enlargement with pulmonary vascular congestion. 

Mild bibasilar atelectasis.  No convincing evidence for 
pneumonia
or overt edema. 
 
Brief Hospital Course:
ASSESSMENT & PLAN: ___ h/o hemolytic anemia on Rituxan, aortic
dilatation,  CKD and afib on warfarin who presents with 
shortness of breath after a recent admission for epistaxis. 

ACUTE/ACTIVE PROBLEMS:
# Acute diastolic CHF exacerbation
# Afib w/RVR 
# 6-beat NSVT - asymptomatic 
Ms. ___ presented with PND, weight gain, DOE, peripheral 
edema. Her admit weight was 169 lbs (reported baseline ~ 155 
lbs). Chest xray showed pulmonary edema and proBNP was elevated 
to 31,600. This acute CHF exacerbation was likely precipitated 
by rapid afib, in setting of not taking Toprol in days prior to 
admission.  There may have also been some component of 
deconditioning.
   During this hospitalization, she was diuresed with IV lasix - 
with good response.  Her discharge date weight was 159 lbs (down 
10 lbs since admission).  To also assist with heart rate control 
(and better manage the diastolic heart failure), she was 
monitored and telemetry and placed on higher doses of metoprolol 
- and then eventually diltiazem to get better control of her 
tachycardia.  On admission, her HR frequently peaked to 150-160s 
with minimal exertion.  With the addition of diltiazem and 
increase in metoprolol, her HR was in better control with HR in 
70-80s.  
   She noted significant improvement in respiratory status (and 
less leg swelling) on day of discharge.  She was ambulatory and 
cleared by ___ for home.  She will continue with long-acting 
metoprolol, diltiazem, and oral lasix at 40 mg daily.  She 
should ideally obtain TTE as outpatient.  
   Her warfarin was titrated at home.  Discharge INR was 1.8.  

# Cold agglutinin hemolytic anemia: 
Hematology was consulted in the hospital.  They recommended 
giving Rituximab. 
 She received x1 dose on ___.  Her Hgb was stable, despite some 
signs of hemolysis (haptoglobin <10, LDH elevated).  Of note, 
she is a member of rare blood donor registry-O+, R1 R1, 
K-,-,Fy(a-), JK(a-)

# Acute on chronic renal failure: Admission creatinine of 1.6,
increased from baseline of 1.3. Now at 1.6. Suspect this is due 
to volume overload. ___ also be baseline.   Her losartan was 
discontinued (particularly with starting the diltiazem).  

# Recent epistaxis: Occurred in the setting of supratherapeutic
INR. INR elevated on admission to 4.0. This was down to 1.8 on 
day of discharge. She completed augmentin PPX while hosptialzed. 

 
GENERAL/SUPPORTIVE CARE:
# Nutrition/Hydration: regular diet
# Functional status: independent
# Bowel Function:  senna/colace
# Lines/Tubes/Drains: PIVs
# VTE prophylaxis: She is on coumadin with an elevated INR
# Consulting Services: None
# Contacts/HCP/Surrogate and Communication: HCP is ___
# Code Status/ACP: presumed Full

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
2. Losartan Potassium 50 mg PO DAILY 
3. Simvastatin 20 mg PO QPM 
4. Multivitamins 1 TAB PO DAILY 
5. Warfarin 7.5 mg PO DAILY16 
6. Metoprolol Succinate XL 100 mg PO DAILY 

 
Discharge Medications:
1.  Diltiazem 60 mg PO TID 
RX *diltiazem HCl 180 mg 1 tablet(s) by mouth once a day Disp 
#*30 Capsule Refills:*0 
2.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  Furosemide 40 mg PO DAILY 
RX *furosemide 40 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
4.  Metoprolol Succinate XL 200 mg PO DAILY 
RX *metoprolol succinate 200 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
5.  Multivitamins 1 TAB PO DAILY  
6.  Simvastatin 20 mg PO QPM  
7.  Warfarin 7.5 mg PO DAILY16  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute diastolic Congestive heart failure exacerbation
Cold aggultinin hemolytic anemia
Atrial fibrillation with rapid rate
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Ms. ___,

It was a pleasure taking care of you during your admission to 
___. You were admitted with a congestive heart failure 
exacerbation which was treated with diuretics.  We believe that 
the heart failure occurred in the setting of high heart rates 
(while also not taking your metoprolol).  We made modifications 
to your home blood pressure medications to help with this - and 
so please adhere to the medication list provided to you here.
   
You were also treated for your hemolytic anemia with one dose of 
Rituxan.  You may follow up with your hematologist to complete 
the treatment of Rituxan as an outpatient. 

It was a pleasure - and we wish you good health.

Your ___ team. 
 
Followup Instructions:
___